US05359090
Preparation of 4-Bromo-1-(n-butoxymethyl)-2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile
A stirred mixture of 4-bromo-2- (p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile (17.4 g, 0.05 mole), di-(n-butoxy)methane (12.0 g, 0.075 mole and dimethylformamide (DMF) (4.6 g, 0.063 mole) in xylenes, under N2, is treated with phosphorous oxychloride (9.6 g, 0.063 mole) portion-wise at 30°-37° C. over a 10 minute period, heated at 45°-50° C. for 0.75 hour, cooled to 35° C., treated dropwise with triethylamine (8.1 g, 0.08 mole) over a 0.25 hour period and heated at 45°-50° C. for an additional 0.75 hour. The reaction mixture is then cooled to 25° C., treated with water and additional xylenes and stirred for 0.5 hour. The phases are separated and the organic phase is concentrated in vacuo to give the title product as a light brown solid, mp 52.0°-53.5° C., 20.6 g, 94.6% yield identified by H1NMR and mass spectral analyses.

reactant | 4-bromo-2- (p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | 0.05 mole, 17.4 g | BrC=1C(=C(NC1C(F)(F)F)C1=CC=C(C=C1)Cl)C#N | C12H5BrClF3N2
reactant | di-(n-butoxy)methane | C(CCC)OCOCCCC | C9H20O2
reactant | dimethylformamide | 0.063 mole, 4.6 g | CN(C=O)C | C3H7NO
reactant | phosphorous oxychloride | 0.063 mole, 9.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 0.08 mole, 8.1 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 4-Bromo-1-(n-butoxymethyl)-2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | 94.6% yield | BrC=1C(=C(N(C1C(F)(F)F)COCCCC)C1=CC=C(C=C1)Cl)C#N | C17H15BrClF3N2O
